US07479502B2
5-Amino-6-bromo-3-chloro-2-cyano-pyridine (1.6 g) was dissolved in tetrahydrofuran (5 mL) at room temperature. N,N-dimethylaminopyridine (0.5 g) followed by di-tert-butyl dicarbonate (3.78 g) in small portions were added to the solution and the mixture was stirred at room temperature for 30 minutes. The solvent was removed by evaporation and the residue was dissolved in dicloromethane (60 mL). Trifluoroacetic acid (1 g) was added to the solution and the mixture was stirred for 1 hour. The solvent was removed by evaporation and product was purified from the residue by column chromatography (EtOAc/hexanes 1/1) to give tert-butyl 2-bromo-5-chloro-6-cyano-pyridin-3-yl-carbamate (1 g). MS (obs.): 333 (M+1).

reactant | 5-Amino-6-bromo-3-chloro-2-cyano-pyridine | 1.6 g | NC=1C=C(C(=NC1Br)C#N)Cl | C6H3BrClN3
reactant | di-tert-butyl dicarbonate | 3.78 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-bromo-5-chloro-6-cyano-pyridin-3-yl-carbamate | 1 g | BrC1=NC(=C(C=C1NC(OC(C)(C)C)=O)Cl)C#N | C11H11BrClN3O2
